US07906528B2
To a solution of 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine (2.36 g, 6.4 mmol) in DCM (50 mL), NBS (1.25 g, 7.0 mmol) is added and the mixture is stirred at room temperature for 1 h. The mixture is concentrated under reduced pressure, and the product is dissolved in a 5:1 EtOAc/Hexane mixture and filtered over a small pad of silica gel. The solvent is removed under reduced pressure to afford 3-bromo-5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine.

reactant | 5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | 6.4 mmol, 2.36 g | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2)C2=CC=C(C=C2)C(C)C | C26H28N2
reactant | NBS | 7.0 mmol, 1.25 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridine | BrC1=CN(C2=CN=C(C=C21)C2=C(C=CC=C2CC)CC)C2=CC=C(C=C2)C(C)C | C26H27BrN2
